US06583139B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-glutamic acid
N-(Toluene-4-sulfonyl)-L-proline hydrate was coupled to L-5-(1,1-dimethylethyl)-glutamic acid methyl ester hydrochloride using the procedure described in Method 3. The methyl ester was hydrolyzed using LiOH in THF/water to provide a solid, mp=164-166° C. The title compound was prepared, via cleavage of the t-butyl ester using trifluoroacetic acid in CH2Cl2, as a solid, mp=>200° C.

reactant | N-(Toluene-4-sulfonyl)-L-proline hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C
reactant | LiOH | [Li+].[OH-]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF water | C1CCOC1.O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-glutamic acid | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CCC(=O)O)C(=O)O)CCC1)C | C17H22N2O7S
